### PR TITLE
[Merged by Bors] - feat: port Algebra.Group.UniqueProds

### PR DESCRIPTION
**Pull request by xroblot**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/UniqueProds.lean [hunk 1]
```diff
@@ -0,0 +1,235 @@
...
+(`apply_instance` uses `covariants.to_uniqueProds` and `covariants.to_uniqueSums`).
+```lean
+import data.real.basic
+
+example : unique_sums ℕ   := by apply_instance
+example : unique_sums ℕ+  := by apply_instance
+example : unique_sums ℤ   := by apply_instance
+example : unique_sums ℚ   := by apply_instance
+example : unique_sums ℝ   := by apply_instance
+example : unique_prods ℕ+ := by apply_instance
```
Comment (jcommelin) [inline Mathlib/Algebra/Group/UniqueProds.lean:33]: Please Lean4-ify

Comment (xroblot) [reply Mathlib/Algebra/Group/UniqueProds.lean]: I have fixed the example and made sure it works :)

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
